US20010019995A1
A solution of 220 mg (1.3 mmol) of 1-(7-carboxyheptyl)-cyclopropene in ether was cooled to 0° C. Triethylamine (0.20 g, 2 mmol) was added, then 0.12 g (1.3 mmol) of methylchloroformate was added. After 2 hours at 0° C., the reaction mixture was transferred to a separatory funnel. The ether phase was washed with water (2×) and brine, dried over magnesium sulfate, filtered and stripped. The product was dissolved in ethanol, cooled in an ice bath and treated with 1 ml of a 21% sodium ethoxide in ethanol solution. The reaction mixture was stirred ½ hour, then water and ether were added. The ether phase was washed with 1N sodium hydroxide solution, water, and brine, dried over magnesium sulfate, filtered and stripped to give 10 mg of 75% pure 7-cycloprop-1-enyl-heptanoic acid ethyl ester.

reactant | 1-(7-carboxyheptyl)-cyclopropene | 1.3 mmol, 220 mg | C(=O)(O)CCCCCCCC1=CC1 | C11H18O2
reactant | Triethylamine | 2 mmol, 0.20 g | C(C)N(CC)CC | C6H15N
reactant | methylchloroformate | 1.3 mmol, 0.12 g | COC(=O)Cl | C2H3ClO2
solvent | ether | CCOCC | C4H10O
product | 7-cycloprop-1-enyl-heptanoic acid ethyl ester | 10 mg, 75% | C(C)OC(CCCCCCC1=CC1)=O | C12H20O2
